2112-01-19 07:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Gastrointestinal bleeding
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2112-1-18**] 03:32 PM
   bleeding scan
   - Bleeding scan was positive for the sigmoid colon (likely
   diverticulitis).  She went for angio and they saw no evidence of active
   bleeding.
   -Syncopal episode after returning from angiography study, prior to PRBC
   infusion.
   - She received 2 units of PRBC over the late evening and on recheck Hct
   had not bumped, but was stable at at 32.  No clinical evidence of
   bleeding currently.  Pressures stable and slightly bradycardia with
   sleep.
   -Had a bowel movement this morning. Patient reports there was
   blood
 in the stool but no bright red blood.
   Allergies:
   Codeine
   Nausea/Vomiting
   Erythromycin Base
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: No changes
   Flowsheet Data as of  [**2112-1-19**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.7
C (96.3
   HR: 56 (49 - 68) bpm
   BP: 159/79(98) {91/57(73) - 163/128(132)} mmHg
   RR: 13 (10 - 20) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
           Total In:
                                                                  2,847 mL
                                                                    877 mL
   PO:
           TF:
   IVF:
                                                                  2,237 mL
                                                                    850 mL
   Blood products:
                                                                    611 mL
                                                                     27 mL
   Total out:
                                                                  1,030 mL
                                                                    300 mL
   Urine:
                                                                  1,030 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,817 mL
                                                                    577 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///23/
   Physical Examination
   General: No acute distress, alert and oriented x3
   HEENT: EOM intact. Oral mucosa wet and pink. No oral lesions. No
   cervical or supraclavicular adenopathy.
   Cardiovascular: Bradycardic and Regular, normal S1 and S2, no murmurs,
   rubs, or gallops
   Lungs: Clear to auscultation bilaterally. No wheezes, rales, or rhonchi
   Abdomen: Soft, mildly tender to palpation without guarding or rebound
   tenderness, nondistended, no masses. Bowel sounds active.
   Extremities: Warm without edema.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  Warm without rashes or other lesions in visible areas
   Neurologic: Responds to: alert, Movement: Spontaneous, Tone: Not
   assessed
   Labs / Radiology
   246 K/uL
   11.1 g/dL
   97 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.6 mEq/L
   13 mg/dL
   111 mEq/L
   141 mEq/L
   32.0 %
   7.7 K/uL
        [image002.jpg]
                             [**2112-1-18**]  02:19 PM
                             [**2112-1-18**]  05:39 PM
                             [**2112-1-19**]  01:17 AM
                             [**2112-1-19**]  04:44 AM
   WBC
   7.7
   Hct
   33.7
   32.4
   32.0
   32.0
   Plt
   246
   Cr
   0.4
   Glucose
   97
   Other labs: PT / PTT / INR:14.3/34.9/1.2, Ca++:7.4 mg/dL, Mg++:1.9
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   78 yo female with hx of CAD, diverticulosis here with BRBPR with a
   positive bleeding scan in the sigmoid colon, however no evidence of
   bleeding by angiography continuing to pass clots and awaiting flex sig.
   # GI Bleed: Bleeding scan positive for bleeding from sigmoid colon,
   likely due to diverticulosis. Angiogram shows no evidence of active
   bleeding.  Other causes could be hemrrhoidal bleeding, ischemic bowel,
   or missed diverticular bleeding on angiography.  Continues to pass
   clots this morning.  She is s/p 2 units of PRBC overnight.  Her Hct did
   not bump to the blood, but has remained stable in the low 30
   - Maintain serial hematocrits q4 hours. [**Month (only) 51**] require additional PRBC if
   s/s hemodynamic instability persist.  Will transfuse for Hct < 30 as
   she is actively passing clots.
   - IV PPI [**Hospital1 **]
   - GI is follwing, appreciate consult
 plans for a flex-sig today.
   - Continue to hold clopidogrel and aspirin.
   - Active type and screen
   - Will obtain a surgical consult due to possibility of need for
   surgical intervention.
   # Syncopal episode yesterday:  Likely secondary from volume loss in the
   settting of active GI bleed.  No postictal confusion or incontience so
   sz unlikely.  [**Month (only) 51**] have also had a vagal response to bowel movement
   prior to the event.  No current dizziness this am or further episodes.
   Tele shows sinus brady.
   - Continue to monitor and follow tele closely.
   #Hypokalemia: 40 mEq KCl PO x 1 dose given. 2g Mag sulfate.
   #Coronary Artery Disease: Patient currently asymptomatic.
   - Continue pravastatin.
   - Holding ASA and B-blocker given risk of bleed.
   #NIDDM: RISS. Blood glucose well-controlled at this time. Metformin
   held.
   #Depression: Continue home medications.
   ICU Care
   Nutrition: NPO for flex-sig
   Glycemic Control:  Regular insulin sliding scale. Blood glucose
   currently well controlled.
   Lines:
   18 Gauge - [**2112-1-18**] 07:27 PM
   Prophylaxis:
   DVT: pneumobots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU
   The patient was seen and examined and this note was written by [**First Name8 (NamePattern2) **]
   [**Doctor Last Name 4842**], MS4.
   I examined the patient and agree with the above note by Ed.

2112-01-19 09:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Following tagged rbc scan pt passed large bloody movement and became
   vagal, LH, presyncopal. Resolved spontaneously. Angiography also done
   yest pm. Continues to have bloody BMs. notes sore stomach this am but
   denies cp or sob.
   Allergies:
   Codeine
   Nausea/Vomiting
   Erythromycin Base
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Protonix 40 q12 IV, Pravastatin, Wellbutrin, Lexapro
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-1-19**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.4
C (95.7
   HR: 54 (49 - 68) bpm
   BP: 143/63(84) {91/57(73) - 163/128(132)} mmHg
   RR: 15 (10 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
           Total In:
                                                                  2,847 mL
                                                                  1,034 mL
   PO:
           TF:
   IVF:
                                                                  2,237 mL
                                                                  1,007 mL
   Blood products:
                                                                    611 mL
                                                                     27 mL
   Total out:
                                                                  1,030 mL
                                                                    700 mL
   Urine:
                                                                  1,030 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,817 mL
                                                                    334 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: mild
   diffuse
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.1 g/dL
   246 K/uL
   97 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.6 mEq/L
   13 mg/dL
   111 mEq/L
   141 mEq/L
   32.0 %
   7.7 K/uL
        [image002.jpg]
                             [**2112-1-18**]  02:19 PM
                             [**2112-1-18**]  05:39 PM
                             [**2112-1-19**]  01:17 AM
                             [**2112-1-19**]  04:44 AM
   WBC
   7.7
   Hct
   33.7
   32.4
   32.0
   32.0
   Plt
   246
   Cr
   0.4
   Glucose
   97
   Other labs: PT / PTT / INR:14.3/34.9/1.2, Ca++:7.4 mg/dL, Mg++:1.9
   mg/dL, PO4:3.0 mg/dL
   Imaging: [**1-19**] Tagged RBC scan + for bleed in distal sigmoid
   [**1-19**] Mesenteric angiography negative
   Assessment and Plan
   GASTROINTESTINAL BLEED, LOWER- most likely diverticular given age and
   symptoms. Tagged scan localized to distal sigmoid which also fits.
   Recent colon in [**2110**] makes malig less likely.
   -Cont serial Hct checks, tranfuse to keep Hct > 30 given CAD
   -GI svce consulted; sigmoidoscopy unhelpful secondary to stool in
   colon. Surgery came by to see patient in case of need for urgent
   surgery.
   -Continue to hold clopidogrel and aspirin.
   -Holding BB for now to ensure hemodynamic stablity
   CAD- s/p stent few years ago, no evidence of ACS at this point.
   Bradycardic despite holding BB therapy
   -holding ASA and clopidogrel given issue #1
   -monitor for ACS, keep Hct > 30
   -cont statin
   NIDDM- RISS. Blood glucose well-controlled at this time. Metformin
   held.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2112-1-18**] 07:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2112-01-20 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GIB
   24 Hour Events:
 COLONOSCOPY - At [**2112-1-19**] 11:00 AM
   - flex sig unable to visualize as had stool
   - hct remained stable throughout the day, no further episodes of GIB
   - plan for c-scope on Thursday
   - surgery saw, offered elective partial colectomy which patient does
   not want, patient understands that if she has large bleed again that
   surgery would be the treatment
   - emailed cardiologist regarding Plavix - patient states she will not
   take it again given her bleed
   - NPO with maintenance fluids for now until no bleed for 24 hours
   - No stool or blood passed per rectum overnight. No abdominal pain.
   - No episodes of dizziness, lightheadedness, or syncope.
   History obtained from Patient
   Allergies:
   History obtained from PatientCodeine
   Nausea/Vomiting
   Erythromycin Base
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2112-1-19**] 11:00 AM
   Fentanyl - [**2112-1-19**] 11:00 AM
   Pantoprazole (Protonix) - [**2112-1-19**] 08:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-1-20**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 62 (54 - 85) bpm
   BP: 117/70(81) {117/50(69) - 145/72(88)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 92%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
             Total In:
                                                                  1,725 mL
                                                                    502 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                  1,668 mL
                                                                    502 mL
   Blood products:
                                                                     27 mL
   Total out:
                                                                  2,250 mL
                                                                     65 mL
   Urine:
                                                                  2,250 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -525 mL
                                                                    437 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender:
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, place, time and purpose, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   223 K/uL
   10.9 g/dL
   92 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.3 mEq/L
   6 mg/dL
   108 mEq/L
   141 mEq/L
   30.3 %
   6.2 K/uL
        [image002.jpg]
                             [**2112-1-18**]  02:19 PM
                             [**2112-1-18**]  05:39 PM
                             [**2112-1-19**]  01:17 AM
                             [**2112-1-19**]  04:44 AM
                             [**2112-1-19**]  09:24 AM
                             [**2112-1-19**]  01:06 PM
                             [**2112-1-19**]  06:35 PM
                             [**2112-1-19**]  11:30 PM
                             [**2112-1-20**]  04:52 AM
   WBC
   7.7
   6.2
   Hct
   33.7
   32.4
   32.0
   32.0
   29.6
   31.4
   30.0
   31.1
   30.3
   Plt
   246
   223
   Cr
   0.4
   0.5
   Glucose
   97
   92
   Other labs: PT / PTT / INR:13.4/38.6/1.1, Ca++:7.5 mg/dL, Mg++:2.3
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   78 yo female with hx of CAD, diverticulosis here with BRBPR with a
   positive bleeding scan in the sigmoid colon, however no evidence of
   bleeding by angiography continuing to pass clots and awaiting flex sig.
   # GI Bleed: Bleeding scan positive for bleeding from sigmoid colon,
   likely due to diverticulosis. Angiogram shows no evidence of active
   bleeding.  Other causes could be hemrrhoidal bleeding, ischemic bowel,
   or missed diverticular bleeding on angiography.  Continues to pass
   clots this morning.  She is s/p 2 units of PRBC 2 nights ago.  Her Hct
   did not bump to the blood, but has remained stable in the low 30
   - check q6 hct hours, as patient
s hematocrit has been stable at around
   30 . [**Month (only) 51**] require additional PRBC if s/s hemodynamic instability occurs,
   though she is stable now.  Will transfuse for Hct < 30 as she is
   actively passing clots.
   - IV PPI [**Hospital1 **]
   - GI is following, appreciate consult
 plans for colonoscopy tomorrow.
   Will require bowel preparation tonight.
   - Continue to hold clopidogrel and aspirin
   - Active type and screen
   - Appreciate surgical consult- patient offered elective partial
   colectomy if bleeding persists. Patient does not wish to proceed with
   colectomy at this time but understands this procedure is the treatment
   for a recurrent GI bleed
   # Syncopal episode:  No further episodes of syncope or dizziness/
   lightheadedness yesterday. Likely secondary from volume loss in the
   settting of active GI bleed.  No postictal confusion or incontience so
   sz unlikely.  [**Month (only) 51**] have also had a vagal response to bowel movement
   prior to the event.  No current dizziness this am or further episodes.
   Tele shows intermittently in sinus brady.
   - Continue to monitor and follow tele closely.
   #Hypokalemia: 40 mEq KCl PO x 1 dose given. 2g Mag sulfate.
   #Coronary Artery Disease: Patient currently asymptomatic.
   - Continue pravastatin.
   - Holding ASA and B-blocker given risk of bleed.
   - Cardiologist made aware- ok with clopidogrel being held.
   #NIDDM: RISS. Blood glucose well-controlled at this time. Metformin
   held.
   #Depression: Continue home medications.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2112-1-18**] 07:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2112-01-20 09:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Flex sig done yest but poorly visualized colon due to retained stool.
   Also seen by Surgery. Cardiology notified re: holding clopidogrel in
   this setting. O/n, no further bloody stools. No LH/dizziness
   Allergies:
   Codeine
   Nausea/Vomiting
   Erythromycin Base
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2112-1-19**] 11:00 AM
   Midazolam (Versed) - [**2112-1-19**] 11:00 AM
   Pantoprazole (Protonix) - [**2112-1-20**] 08:06 AM
   Other medications:
   RISS, Lexapro, Pravastatin, Wellbutrin,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-1-20**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 65 (55 - 85) bpm
   BP: 129/65(80) {117/50(69) - 145/72(88)} mmHg
   RR: 13 (10 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
             Total In:
                                                                  1,725 mL
                                                                    733 mL
   PO:
                                                                     30 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  1,668 mL
                                                                    703 mL
   Blood products:
                                                                     27 mL
   Total out:
                                                                  2,250 mL
                                                                    750 mL
   Urine:
                                                                  2,250 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -525 mL
                                                                    -15 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.9 g/dL
   223 K/uL
   92 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.3 mEq/L
   6 mg/dL
   108 mEq/L
   141 mEq/L
   30.3 %
   6.2 K/uL
        [image002.jpg]
                             [**2112-1-18**]  02:19 PM
                             [**2112-1-18**]  05:39 PM
                             [**2112-1-19**]  01:17 AM
                             [**2112-1-19**]  04:44 AM
                             [**2112-1-19**]  09:24 AM
                             [**2112-1-19**]  01:06 PM
                             [**2112-1-19**]  06:35 PM
                             [**2112-1-19**]  11:30 PM
                             [**2112-1-20**]  04:52 AM
   WBC
   7.7
   6.2
   Hct
   33.7
   32.4
   32.0
   32.0
   29.6
   31.4
   30.0
   31.1
   30.3
   Plt
   246
   223
   Cr
   0.4
   0.5
   Glucose
   97
   92
   Other labs: PT / PTT / INR:13.4/38.6/1.1, Ca++:7.5 mg/dL, Mg++:2.3
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   GASTROINTESTINAL BLEED, LOWER- most likely diverticular given age and
   symptoms. Tagged scan localized to distal sigmoid which also fits.
   Recent colon in [**2110**] makes malig less likely.
   -Cont serial Hct checks, tranfuse to keep Hct > 30 given CAD
   -GI svce consulted; sigmoidoscopy unhelpful secondary to stool in
   colon. Surgery came by to see patient in case of need for urgent
   surgery.
   -Continue to hold clopidogrel and aspirin.
   -Holding BB for now to ensure hemodynamic stablity
   -ok to have clears today per GI; npo after MN w/ poss prep for
   colonoscopy
   CAD- s/p stent few years ago, no evidence of ACS at this point.
   Bradycardic despite holding BB therapy
   -holding ASA and clopidogrel given issue #1 (spoke to 1' cardiologist
   and ok)
   -monitor for ACS, keep Hct > 30
   -cont statin
   NIDDM- RISS. Blood glucose well-controlled at this time. Metformin
   held.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2112-1-18**] 07:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes